US08614220B2
8-(5-amino-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A46B1C1Z)
To a suspension of 8-(5-nitro-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (630 mg, 1.4 mmol) in methanol (6 mL) ammonium chloride (240 mg, 4.3 mmol) in water (25 mL) and iron (397 mg, 7.4 mmol) were added. The mixture was heated under reflux for 3 hours until HPLC revealed the disappearance of the starting material. The solvent was removed and the crude was diluted with trifluoroethanol. Iron was removed and the filtrate was concentrated to give the final compound as a light brown solid in quantitative yield.

reactant | 8-(5-nitro-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 1.4 mmol, 630 mg | [N+](=O)([O-])C=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)OC(F)(F)F | C18H14F3N7O4
reactant | methanol | 4.3 mmol, 6 mL, 240 mg | CO | CH4O
solvent | water | 25 mL | O | H2O
catalyst | iron | 7.4 mmol, 397 mg | [Fe] | Fe
product | 8-(5-amino-2-trifluoromethoxy-phenylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | quantitative yield | NC=1C=CC(=C(C1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N)OC(F)(F)F | C18H16F3N7O2
